US07091346B1
1.5 g (3.95 mmol) of 2-chloro-6-(3-cyano-phenyl-amino)-purine, 2.1 g (6.3 mmol) of caesium carbonate and 2.6 ml (31.6 mmol) of iodoethane are stirred in 66 ml of a mixture comprising dioxane:water:DMF in a ratio of 1:2:3 at RT for 19 h. Thereafter, the reaction mixture is diluted with ethyl acetate and the organic phase is washed with water. After drying over sodium sulfate, the residue is chromatographed over silica gel (mobile phase: ethyl acetate:hexane=4:1). After removal of the solvent, 2-chloro-9-ethyl-6-(3-cyano-phenyl-amino)-9H-purine is obtained as a crystalline precipitate. This precipitate is filtered off and dried; m.p. 189° C.; FAB-MS: (M+H)+=299; Rf=0.9 (CH2Cl2:methanol 9:1).

reactant | 2-chloro-6-(3-cyano-phenyl-amino)-purine | 3.95 mmol, 1.5 g | ClC1=NC(=C2NC=NC2=N1)NC1=CC(=CC=C1)C#N | C12H7ClN6
reactant | caesium carbonate | 6.3 mmol, 2.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 31.6 mmol, 2.6 ml | ICC | C2H5I
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-9-ethyl-6-(3-cyano-phenyl-amino)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC)NC1=CC(=CC=C1)C#N | C14H11ClN6
